US07129238B2
tert-Butydiphenylchlorosilane (76.8 g) was added over 30 min to a cooled (0° C.) solution of 2,4-difluorophenol (34.6 g) and imidazole (19.9 G) in CH2Cl2 (400 ml). The cooling bath was removed and the reaction mixture was stirred 2 h at rt before washing it with H2O (400 ml), 5% aq. NaHCO3 (300 ml) and brine. The aqueous layers were extracted with two more portions of CH2Cl2 (150 ml). The combined organic layers were dried (Na2SO4) and the solvent was evaporated to obtain 102 g (99%) of tert-butyl-(2,4-difluoro-phenoxy)-diphenyl-silane. Colorless liquid.

reactant | tert-Butydiphenylchlorosilane | 76.8 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | 2,4-difluorophenol | 34.6 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl-(2,4-difluoro-phenoxy)-diphenyl-silane | 102 g, 99% | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=C(C=C1)F)F | C22H22F2OSi
